US07148249B2
1-acetyl-3-[1-chloro-1-(5-methyl-3-isoxazolyl)methylene]-2-indolinone
3.00 g of 1-acetyl-3-[1-hydroxy-1-(5-methyl-3-isoxazolyl)methylene]-2-indolinone, 5.09 ml carbon tetrachloride and 5.54 g triphenylphosphine are refluxed in 100 ml of THF for 8 hours. The residue obtained after the solvent has been distilled off is purified by chromatography on silica gel (eluant: petroleum ether/ethyl acetate=9:1).

reactant | 1-acetyl-3-[1-hydroxy-1-(5-methyl-3-isoxazolyl)methylene]-2-indolinone | 3.00 g | C(C)(=O)N1C(C(C2=CC=CC=C12)=C(C1=NOC(=C1)C)O)=O | C15H12N2O4
reactant | carbon tetrachloride | 5.09 ml | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | triphenylphosphine | 5.54 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 1-acetyl-3-[1-chloro-1-(5-methyl-3-isoxazolyl)methylene]-2-indolinone | C(C)(=O)N1C(C(C2=CC=CC=C12)=C(C1=NOC(=C1)C)Cl)=O | C15H11ClN2O3
